US05252569
A. 1-(1-Chloro-2-hydroxy-3-propanyl)-4-(2-methoxy-phenyl)piperazine
To epichlorohydrin (3.9 ML, 50 mmol) in CH3CN (3 mL) at 0° C. was added 1-(2-methoxyphenyl)piperazine (9 mL, 50 mmol) in CH3CN (20 mL) dropwise over 5 minutes under a nitrogen atmosphere. After 16 hours the resultant white precipitate was filtered away, washed with CH3CN and acetone, dried at 30° C. in a vacuum oven and identified as pure product (7.28 g, 51.1%). mp 96°-98° C. DCI/MS M+1=285. (100 MHz) 1 H nmr (dmso-d6) δ:6.9 (m, 4H), 3.76(m, 1H), 3.76 (s, 3H), 3.62 (d of d, 2H), 2.96 (m, 4H), 2.56 (m, 6H).

reactant | epichlorohydrin | 50 mmol | C(Cl)C1CO1 | C3H5ClO
reactant | 1-(2-methoxyphenyl)piperazine | 50 mmol, 9 mL | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
solvent | CH3CN | 3 mL | CC#N | C2H3N
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | 1-(1-Chloro-2-hydroxy-3-propanyl)-4-(2-methoxy-phenyl)piperazine | ClCC(CN1CCN(CC1)C1=C(C=CC=C1)OC)O | C14H21ClN2O2
